US05376673
A. N-(5-Chloropentyl)phthalimide
A solution of 20.6 g (0.139 mole) of phthalic anhydride, 20 g (0.126 mole) of 5-chloropentylamine hydrochloride and 17.6 ml (0.126 mole) of triethylamine in 250 ml of toluene was heated to 130° C. for 4 hours. The obtained mixture was evaporated to dryness. The residue was taken up into 200 ml of water and extracted with ethyl acetate. The phases were separated and the organic phase was dried over sodium sulfate and evaporated to dryness. From the crude product, 23 g of the title product were obtained as an oil having the following characteristics:

reactant | phthalic anhydride | 0.139 mole, 20.6 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | 5-chloropentylamine hydrochloride | 0.126 mole, 20 g | Cl.ClCCCCCN
reactant | triethylamine | 0.126 mole, 17.6 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | N-(5-Chloropentyl)phthalimide | 23 g | ClCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C13H14ClNO2
